US05051413
The starting material is manufactured as follows: Reaction of 3,3-dimethyl-2-methylene-butanal with isocyanoacetic acid ethyl ester in amanner analogous to that described in Example 1 yields 5-(3,3-dimethylbuten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester, which is hydrolysed analogously to Example 17 to 2-formylamino-3-hydroxy-4-tert.-butyl-4-pentenoic acid ethyl ester. Subsequent reaction with thionyl bromide followed by treatment with trimethyl phosphite analogously to Example 1 yields E-2-formylamino-4-tert.-butyl-5-dimethylphosphono-3-pentenoic acid ethyl ester.

reactant | 3,3-dimethyl-2-methylene-butanal | CC(C(C=O)=C)(C)C | C7H12O
reactant | isocyanoacetic acid ethyl ester | C(C)OC(C[N+]#[C-])=O | C5H7NO2
product | 5-(3,3-dimethylbuten-2-yl)-2-oxazoline-4-carboxylic acid ethyl ester | C(C)OC(=O)C1N=COC1C(=C)C(C)(C)C | C12H19NO3
